Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Metronidazole
 
Attending: ___.
 
Chief Complaint:
polyuria, polydipsia, fatigue
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo M with hx of morbid obesity (BMI 53.2) who presents today 
from HCA with hyperglycemia.
.
Patient reports that he has had ___ weeks of polydipsia, 
polyuria, slight abdominal discomfort and fatigue. In this same 
time he says that he has been drinking large quantities of 
water. Denies blurry vision. He has no personal hx of diabetes 
although was found to have an A1c of 6.9 in ___ but did not 
follow up. Patient brought his child to his pediatrician 
yesterday and asked him if his multivitamin could be causing 
increased thirst and urination. The pediatrician recommended 
that he see his doctor as he might have high blood sugars. 
Patient presented today to ___ and was found to have a finger of 
greater >500 and was sent to the ED for further evaluation. 
. 
In the ED, initial vital signs were 96.5 164/98 88 18 97% RA. 
His labs were significant for glucose of 595, Na of 132, Cr of 
1.3 (baseline) and a gap of 16 with pH of 7.39. UA showed >1000 
glucose and + ketones. He was given 10 units of regular insulin 
and repeat blood sugar was 486. Per nursing note he was infused 
with 600 cc of NS and then his IV infiltrated. He was admitted 
for further workup and evaluation. 
 
Past Medical History:
- morbid obesity 
- Abdominal hernia status post repair at ___.
- History of back pain in the setting of motor vehicle
accident, stable
- hx of trichomonas
 
Social History:
___
Family History:
adopted and does not recall
 
Physical Exam:
admission exam 
 VS - Temp 98.5F, BP 153/75, HR 89, R 20, O2-sat 96% RA  
GENERAL - Obese well-appearing man in NAD, comfortable, 
appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple 
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - obese, NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout

discharge exam 
VS: 97.7 158/84 (153/75-158/84) 80 (80-89) 20 96% RA
GENERAL - Obese well-appearing man in NAD, comfortable, 
appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple 
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - obese, NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout
 
Pertinent Results:
admission labs
___ 03:06PM BLOOD WBC-5.6 RBC-4.99 Hgb-15.0 Hct-41.9 MCV-84 
MCH-30.0 MCHC-35.7* RDW-12.4 Plt ___
___ 03:06PM BLOOD Neuts-43.9* Lymphs-49.4* Monos-3.5 
Eos-2.3 Baso-0.9
___ 03:55PM BLOOD ___ PTT-28.6 ___
___ 03:06PM BLOOD Glucose-595* UreaN-17 Creat-1.3* Na-132* 
K-4.2 Cl-93* HCO3-23 AnGap-20
___ 03:06PM BLOOD Calcium-10.7* Phos-4.7* Mg-2.2
___ 03:06PM BLOOD Acetone-MODERATE Osmolal-307
___ 03:59PM BLOOD pO2-71* pCO2-40 pH-7.39 calTCO2-25 Base 
XS-0 Comment-ADDED TO G
.
discharge labs
___ 07:39AM BLOOD WBC-5.0 RBC-4.62 Hgb-13.4* Hct-38.9* 
MCV-84 MCH-29.0 MCHC-34.4 RDW-12.6 Plt ___
___ 07:39AM BLOOD Glucose-270* UreaN-14 Creat-1.1 Na-140 
K-3.9 Cl-102 HCO3-29 AnGap-13
___ 07:39AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.1 Cholest-193
___ 07:39AM BLOOD %HbA1c-11.4* eAG-280*
___ 07:39AM BLOOD Triglyc-510* HDL-26 CHOL/HD-7.4 
LDLmeas-93
___ 07:39AM BLOOD C-PEPTIDE-PND
___ 07:39AM BLOOD GLUTAMIC ACID DECARBOXYLASE-PND
.
urine
___ 04:00PM URINE Color-Straw Appear-Clear Sp ___
___ 04:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000 Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
.
studies:
CXR:
FINDINGS: Frontal and lateral views of the chest are obtained. 
Minimal left base atelectasis is seen. No focal consolidation, 
pleural effusion, or pneumothorax is seen. Cardiac and 
mediastinal silhouettes are unremarkable.
IMPRESSION: No acute cardiopulmonary process.
.

 
Brief Hospital Course:
___ yo M with hx of morbid obesity presenting with polydipsia, 
polyuria, fatigue and subsequently found to have ___ of >500.
. 
# Hyperglycemia - Patient presented with symptoms concerning for 
hyperglycemia found to have finger stick >500. Patient did not 
have a known diagnosis of diabetes but had a history of glucose 
intolerance given a previous A1c of 6.9 in ___. Labs on 
presentation to the hospital were significant for a gap of 16 
without acidosis and a urine analysis showing 1000 glucose and 
10 ketones. He was found to have normal serum osms and moderate 
levels of serum acetone. This presentation was concerning for 
new onset diabetes, as there was no obvious precipitant for his 
hyperglycemia including infection, ischemia, or medication. 
Patient was treated with lantus, frequent finger sticks with 
humalog sliding scale, and intravenous fluids. His electrolytes 
normalized and his gap closed. He was found to have an elevated 
A1c of 11.8. With better glucose control, his presenting 
symptoms improved. He was evaluated by ___ and was started on 
a regimen of insulin 70/30. He had teaching how to check his 
finger sticks and administer insulin appropriately. He was 
scheduled for next day follow up in ___ with a 
diabetes specialist. 
. 
# Elevated Blood pressure - Patient without diagnosis of 
hypertension, however last 2 HCA visits show SBPs in the 140s. 
During his admission his systolic blood pressures remained 
elevated in the 150s. He was started on lisinopril 10 mg daily 
to treat his hypertension and for renal protection in the 
setting of diabetes. 
. 
# Elevated Cr - Patient presented with Cr of 1.3 which improved 
to 1.1 with IVF. 
.
# hyponatremia - Patient found to have slightly low Na of 132 on 
presentation. This was likely secondary to pseudohyponatremia in 
the setting of hyperglycemia. His corrected Na was within normal 
limits. 
.
transitional issues: 
- anti GAD, C peptide pending at time of discharge
- Patient found to have elevated triglycerides on fasting lipid 
panel. This should be addressed at PCP follow up. 
- Electrolytes and blood pressure should be rechecked within 2 
weeks as lisinopril was started during this admission
- Patient will need extensive teaching regarding his new 
diagnosis. Would consider having patient see a nutritionist for 
dietary counseling
- Patient will need continued close follow up at ___ for 
further titration of his insulin regimen 
- patient full code on this admission 
 
Medications on Admission:
multivitamin
 
Discharge Medications:
1. lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
2. insulin NPH & regular human 100 unit/mL (70-30) Insulin Pen 
Sig: as directed units Subcutaneous twice a day for 1 months: 
take 20 units before breakfast, and 15 units before dinner daily 
.
Disp:*QS QS* Refills:*2*
3. BD Insulin Pen Needle UF Short 31 X ___   Needle Sig: use as 
directed needle Miscellaneous twice a day.
Disp:*1 box* Refills:*2*
4. One Touch Delica Lancets     Misc Sig: use as directed  
Miscellaneous three times a day.
Disp:*2 boxes* Refills:*2*
5. One Touch Ultra Test     Strip Sig: use as directed  
Miscellaneous three times a day.
Disp:*300 strips* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hyperglycemia, hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to 
___. You were admitted because you were having increased 
thirst and urination and found to have a very elevated blood 
sugar concerning for diabetes. You were evaluated by the 
diabetes specialist and they helped design an appropriate 
insulin regimen for you. You were also found to have an elevated 
blood pressure and were started on a new medication for this. 
. 
The following changes have been made to your medications
Please START taking 
- insulin 70/30 - inject 20 units in the morning and 15 units 
before dinner
- lisinopril 10 mg daily 

Please check your finger sticks as instructed, take your 
medications as prescribed, and follow up with your doctors as 
___. 
 
Followup Instructions:
___